US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(2-oxopyrrolidin-1-yl)benzamide
Using 3-(2-oxopyrrolidin-1-yl)benzoic acid (120 mg, 0.58 mmol), oxalyl chloride (60 μL, 0.68 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3.0 mL), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.49 mmol) and N-methylpyrrolidone (2.0 mL) as starting materials and in the same manner as in Example 335, the title compound (170 mg, 70%) was obtained as a white powder.

reactant | 3-(2-oxopyrrolidin-1-yl)benzoic acid | 0.58 mmol, 120 mg | O=C1N(CCC1)C=1C=C(C(=O)O)C=CC1 | C11H11NO3
reactant | oxalyl chloride | 0.68 mmol, 60 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.49 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(2-oxopyrrolidin-1-yl)benzamide | 170 mg, 70% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)N2C(CCC2)=O)=O)C1 | C27H24N6O4
